US09233958B2
Methyl 4-(aminocarbonothioyl)-2-fluorobenzoate
A sodium hydrogensulfide hydrate (9.22 g, 0.165 mol) was added to an N,N-dimethylformamide (74 mL) suspension of methyl 4-cyano-2-fluorobenzoate (WO 2010/115751) (7.37 g, 41.1 mmol) and magnesium chloride hexahydrate (10.0 g, 49.4 mmol) at room temperature. The mixture was stirred at room temperature for 4 hours. Subsequently, water (148 mL) was added to the reaction mixture, and the precipitated solid was filtered. The solid thus obtained was added to 1 N aqueous hydrochloric acid solution (148 mL), and the mixture was stirred for 20 minutes. The solid in the reaction mixture was filtered to give the title compound (7.63 g, yield: 87%).

reactant | sodium hydrogensulfide hydrate | 0.165 mol, 9.22 g | O.S.[Na]
reactant | methyl 4-cyano-2-fluorobenzoate | 41.1 mmol, 7.37 g | C(#N)C1=CC(=C(C(=O)OC)C=C1)F | C9H6FNO2
reactant | magnesium chloride hexahydrate | 49.4 mmol, 10.0 g | O.O.O.O.O.O.[Cl-].[Mg+2].[Cl-]
reactant | hydrochloric acid | 1 N, 148 mL | Cl | ClH
solvent | water | 148 mL | O | H2O
solvent | N,N-dimethylformamide | 74 mL | CN(C=O)C | C3H7NO
product | Methyl 4-(aminocarbonothioyl)-2-fluorobenzoate | 7.63 g, yield: 87% | NC(=S)C1=CC(=C(C(=O)OC)C=C1)F | C9H8FNO2S
